US05300506
5-Nitro-3-(3-hydroxypropyl)indole
To a suspension of 95% LiAlH4 (2.20 g, 0.058 mol) in 60 mL of dry THF was added a solution of ethyl 5-nitro-3-indolepropionate (7.30 g, 0.028 g mol) in 100 mL of dry THF, at 0° C. under Ar. After stirring for 20 min the mixture was quenched by cautiously adding 3 mL of H2O. The resulting suspension was stirred for 10 min and then it was filtered and the filtercake was washed with additional THF. The filtrate was evaporated and the residue was taken up in ether, dried (Na2SO4) and evaporated, and the resulting solid was triturated with hexane to give the title compound (4.30 g, 70%) as a yellow solid, m.p. 107°-110° C.

reactant | LiAlH4 | 0.058 mol, 2.20 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl 5-nitro-3-indolepropionate | 7.30 g | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)CCC(=O)OCC | C13H14N2O4
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 5-Nitro-3-(3-hydroxypropyl)indole | 4.30 g, 70% | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)CCCO | C11H12N2O3
